US05180700
1,3-Diaminopropane (DAP) and liquid pivalic acid (PA) were preheated to 290° C. and fed to a vertical tubular reactor (R1; 1.5 inch diameter, 48 inch length) filled with 800 milliliters (ml) of alumina catalyst (grain size: 1-4 mm diameter). The reactor was kept at 290° C. The PA feed rate was 160 g/hour (hr), the DAP feed rate was 132 g/hr. This gave a DAP/PA molar ratio of 1.14. A mixture of 300 ml/minute (min) hydrogen and 150 ml/min nitrogen was used as the sweeping gas.

reactant | 1,3-Diaminopropane | NCCCN | C3H10N2
reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
product | DAP PA | NCCCN.C(C(C)(C)C)(=O)O | InChI=1S/C5H10O2.C3H10N2/c1-5(2,3)4(6)7;4-2-1-3-5/h1-3H3,(H,6,7);1-5H2
